Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Left thigh myxoma
 
Major Surgical or Invasive Procedure:
excision of left thigh myxoma

 
History of Present Illness:
The patient presented directly to the preop holding area for 
elective excision of left thigh myxoma. A full, detailed H&P for 
this patient may be found in Dr. ___ clinic note 
from ___. 
 
Past Medical History:
Mild allergic asthma, osteopenia, IBS, and GERD.  She perhaps 
had an effort-induced right axillary arterial thrombosis over ___ 
years ago and described undergoing percutaneous angioplasty in 
___ at that time.

 
Social History:
___
Family History:
The family history is significant for her father who had lung
cancer and a maternal grandmother who had ovarian cancer in old
age.  Both the maternal and paternal grandfathers had MIs.  Her
sister has ulcerative colitis.  She has 3 children aged ___,
and ___pparently her oldest son age ___ is an
___.

 
Physical Exam:
VS: ___ ___ Temp: 99.1 PO BP: 94/59 HR: 60 RR: 18 O2 sat:
95% O2 delivery: RA 
GEN: WD, WN in NAD
HEENT: anicteric
CV: RRR, No JVD
PULM:  normal excursion, no respiratory distress
ABD: soft, NT, ND, no mass, no hernia
PELVIS:
EXT: WWP, no CCE, 2+ B/L radial
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
WOUND: Dressing clean and dry without evidence of further
drainage
 
Pertinent Results:
___ 07:54AM BLOOD WBC-6.0 RBC-2.84* Hgb-9.2* Hct-28.2* 
MCV-99* MCH-32.4* MCHC-32.6 RDW-12.8 RDWSD-46.5* Plt ___
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ 
for excision of left thigh myxoma. She tolerated this procedure 
well without complications (Please see 
operative notes for further details). After a brief and 
uneventful stay in the PACU, the patient was transferred to the 
floor for further post-operative management. Her postoperative 
course was unremarkable and she was ready for discharge on POD2. 

A system by system review of her management is as follows.

Neuro: Pain was well controlled Tylenol and PRN  oxycodone. She 
was initially placed on IV dilauded, but this was discontinued 
after she began taking in PO.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was slowly advanced to and tolerated a regular 
diet by time of discharge. Patient's intake and output were 
closely monitored
GU: At time of discharge, the patient was voiding without 
difficulty.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever without evidence of either
Heme: The patient received a couple doses of subcutaneous 
heparin, but this was discontinued due to sanguinous drain 
output on POD1. ___ dyne were continued and the patient was 
continually encouraged to ambulate for DVT prophylaxis. On 
postoperative day 2, the patient no longer had drainage from the 
wound but was discharged so heparin prophylaxis was not 
restarted.

On ___, the patient was discharged to home with service 
for drain care. At discharge, she was tolerating a regular diet, 
passing flatus, voiding, and ambulating independently. She will 
follow-up in the clinic on ___. This information was 
communicated to the patient directly prior to discharge.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - Third Line  
3.  Docusate Sodium 100 mg PO BID  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4 PRN Disp #*30 
Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left thigh myxoma

 
Discharge Condition:
A&O x3, Cohesive 
Ambulatory per baseline

 
Discharge Instructions:
Ms. ___,

You underwent surgery to remove a left thigh myxoma, which you 
tolerated and recovered from well. The following is a summary of 
discharge instructions. 

MEDICATIONS 
1. Please resume all home medications, unless specifically 
advised not to take a particular medication. Please take any new 
medications as prescribed.
2. Please take all pain medications as prescribed, as needed. 
You may not drive or operate heavy machinery while taking 
narcotic pain medications. You may also take acetaminophen 
(Tylenol) as directed, but do not exceed 4000 mg in one day. 
3. An over-the-counter stool softener such as Colace (100mg 
twice daily) is recommended to prevent constipation while on 
narcotic pain medication.

WOUND CARE
1. Monitor the wounds for signs of infection, including redness 
that is spreading or increased drainage from wounds. Please call 
Dr. ___ if you experience any of these symptoms.
2. Please do not allow drain site to get wet. If you take a 
shower, this site must be covered
3. Please call Dr. ___ when your drain output is < 30 
cc/day

ACTIVITY
1. No strenuous activity until cleared by Dr. ___.
2. No showering until cleared by Dr. ___ sponge baths only.

Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
2. A large amount of bleeding from the incision(s) or drain(s). 
3. Fever greater than 101.5 oF 
4. Severe pain NOT relieved by your medication. 

Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
 
Followup Instructions:
___